US07635715B2
Step G: Preparation of (Z)-ethyl 4-(3-chloro-2-(3-ethoxy-1-hydroxy-3-oxoprop-1-enyl)phenyl)-tetrahydro-2H-pyran-4-carboxylate
A mixture of ethyl 4-(3-chloro-2-(3-ethoxy-3-oxoprop-1-ynyl)phenyl)-tetrahydro-2H-pyran-4-carboxylate (0.5 g, 1 mmol) in 1.5 mL TFA was stirred at room temperature and treated with lithium acetate (0.09 g, 1 mmol) and palladium(II) acetate (0.02 g, 0.07 mmol). The resulting solution was stirred at room temperature for 2 hours and concentrated. The residue was diluted with 100 mL EtOAc, washed with water (3×20 mL), 20 mL saturated NaCl, dried over anhydrous sodium sulfate, and concentrated. The concentrate was purified by column chromatography (10-20% EtOAc/hexane) to give 0.15 g of the product as a yellow oil. MS m/e: (M+H)+ 383.

reactant | ethyl 4-(3-chloro-2-(3-ethoxy-3-oxoprop-1-ynyl)phenyl)-tetrahydro-2H-pyran-4-carboxylate | 1 mmol, 0.5 g | ClC=1C(=C(C=CC1)C1(CCOCC1)C(=O)OCC)C#CC(=O)OCC | C19H21ClO5
reactant | lithium acetate | 1 mmol, 0.09 g | C(C)(=O)[O-].[Li+]
solvent | TFA | 1.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
catalyst | palladium(II) acetate | 0.07 mmol, 0.02 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (Z)-ethyl 4-(3-chloro-2-(3-ethoxy-1-hydroxy-3-oxoprop-1-enyl)phenyl)-tetrahydro-2H-pyran-4-carboxylate | 0.15 g | ClC=1C(=C(C=CC1)C1(CCOCC1)C(=O)OCC)/C(=C/C(=O)OCC)/O | C19H23ClO6
